US07179823B1
A mixture of ethyl(E)-3-[1-(3,5-dibenzyloxybenzyl)-4-phenyl-3-pyrrolyl]propenoate (19.0 g), 5% palladium-carbon (40.0 g), ethanol (200 ml), and tetrahydrofuran (200 ml) was stirred for 4 hours at room temperature under a hydrogen atmosphere. After the palladium-carbon was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[1-(3,5-dihydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate (12.10 g, yield: 95%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (3:2, volume ratio).

reactant | ethyl(E)-3-[1-(3,5-dibenzyloxybenzyl)-4-phenyl-3-pyrrolyl]propenoate | 19.0 g | C(C1=CC=CC=C1)OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)/C=C/C(=O)OCC)C=C(C1)OCC1=CC=CC=C1 | C36H33NO4
reactant | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 40.0 g | [C].[Pd]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | ethyl 3-[1-(3,5-dihydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate | 12.10 g, yield: 95% | OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C(C1)O | C22H23NO4
